US08629137B2
1-{1-[6-(8-methyl-2,3-dihydro-benzo[1,4]dioxin-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
64 mg (0.22 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one-dihydrochloride, 84 mg (0.22 mmol) (6-iodo-pyrimidin-4-yl)-(8-methyl-2,3-dihydro-benzo[1,4]dioxin-6-yl)-methanone and 0.15 mL (0.88 mmol) DIPEA were combined in 2.5 mL DMF and stirred overnight at RT. Then the reaction mixture was purified by preparative HPLC-MS. The fractions containing the product were combined and the organic solvent was evaporated down. The residue was mixed with 1N aqueous sodium hydroxide solution, the precipitate formed was suction filtered, washed with water and dried.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one-dihydrochloride | 0.22 mmol, 64 mg | Cl.Cl.N1CCC(CC1)N1C(NC2=NC=CC=C21)=O
reactant | (6-iodo-pyrimidin-4-yl)-(8-methyl-2,3-dihydro-benzo[1,4]dioxin-6-yl)-methanone | 0.22 mmol, 84 mg | IC1=CC(=NC=N1)C(=O)C1=CC2=C(OCCO2)C(=C1)C | C14H11IN2O3
reactant | DIPEA | 0.88 mmol, 0.15 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 1-{1-[6-(8-methyl-2,3-dihydro-benzo[1,4]dioxin-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | CC1=CC(=CC2=C1OCCO2)C(=O)C2=CC(=NC=N2)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O | C25H24N6O4
